US04939279
Preparation of 2-Methoxy-3-(2-carboxyethylthio)-3-[2-(8-phenyloctyl)phenyl]propanoic acid
To trifluoroacetic acid (100 ml) under argon and cooled to 0° C., was added methyl 3-mercaptopropanoate (0.5 ml, 4.5 mmoles). The mixture was stirred for 10 minutes, after which the ice bath was removed. Methyl 2-methoxy-3-hydroxy-3-[2-(8-phenyloctyl)phenyl]propanoate (1.5 g, 4 mmoles) was added and the mixture stirred for 18 hours. The reaction mixture was evaporated and diluted in methylene chloride. The organic layer was washed with 10% sodium hydroxide (ice cold) followed by ice water. The organic layer was dried over magnesium sulfate, filtered and evaporated. Flash chromatography on silica gel provided the desired product.

reactant | methyl 3-mercaptopropanoate | 4.5 mmoles, 0.5 ml | SCCC(=O)OC | C4H8O2S
reactant | Methyl 2-methoxy-3-hydroxy-3-[2-(8-phenyloctyl)phenyl]propanoate | 4 mmoles, 1.5 g | COC(C(=O)OC)C(C1=C(C=CC=C1)CCCCCCCCC1=CC=CC=C1)O | C25H34O4
solvent | trifluoroacetic acid | 100 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 2-Methoxy-3-(2-carboxyethylthio)-3-[2-(8-phenyloctyl)phenyl]propanoic acid | COC(C(=O)O)C(C1=C(C=CC=C1)CCCCCCCCC1=CC=CC=C1)SCCC(=O)O | C27H36O5S
